US08802697B2
A suspension of (4-(methylamino)-2-(methylthio)pyrimidin-5-yl)methanol (3.1 g, 16.73 mmol) and manganese dioxide (7.27 g, 83.67 mmol) in DCM (40 mL) was stirred at room temperature for 12 hours. The resulting precipitate was filtered off, and the filtrate was concentrated to give 4-(methylamino)-2-(methylthio)pyrimidine-5-carbaldehyde (2.8 g, 91%) as a yellowish solid. MS (ES+) C7H9N3OS requires: 183. found: 184 [M+H]+.

reactant | (4-(methylamino)-2-(methylthio)pyrimidin-5-yl)methanol | 16.73 mmol, 3.1 g | CNC1=NC(=NC=C1CO)SC | C7H11N3OS
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 83.67 mmol, 7.27 g | [O-2].[O-2].[Mn+4]
product | 4-(methylamino)-2-(methylthio)pyrimidine-5-carbaldehyde | 2.8 g, 91% | CNC1=NC(=NC=C1C=O)SC | C7H9N3OS
